US06455708B1
A mixture of 4-(2-chloro-5-trifluoromethylphenyl)-1-fluoro-2-fluoromethyl-3-cis-buten-2-ol (8.80 g), potassium tert-butoxide (3.50 g) and N,N-dimethylformamide (60 ml) was stirred at 60° C. for 40 minutes. To the reaction mixture, 2 N HCl was added, followed by extraction with ethyl acetate; the resulting organic layers were combined, washed with a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride, dried with anhydrous sodium sulfate and concentrated under reduced pressure to give 2,2-bis(fluoromethyl)-6-trifluoromethyl-2H-1-benzopyran (7.0 g).

reactant | 4-(2-chloro-5-trifluoromethylphenyl)-1-fluoro-2-fluoromethyl-3-cis-buten-2-ol | 8.80 g | ClC1=C(C=C(C=C1)C(F)(F)F)\C=C/C(CF)(O)CF | C12H10ClF5O
reactant | potassium tert-butoxide | 3.50 g | CC(C)([O-])C.[K+]
reactant | HCl | 2 N | Cl | ClH
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2,2-bis(fluoromethyl)-6-trifluoromethyl-2H-1-benzopyran | 7.0 g | FCC1(OC2=C(C=C1)C=C(C=C2)C(F)(F)F)CF | C12H9F5O
